US05952362
(3-Chloro-4-methyl-5-nitrophenyl) acetonitrile was prepared from 5-bromomethyl-1-chloro-2-methyl-3-nitrobenzene in a manner similar to that described in Example 10 for the preparation of N-methanesulfonyl-6-cyanomethyl indole from N-methanesulfonyl-6-bromomethyl indole.

reactant | 5-bromomethyl-1-chloro-2-methyl-3-nitrobenzene | BrCC=1C=C(C(=C(C1)Cl)C)[N+](=O)[O-] | C8H7BrClNO2
reactant | N-methanesulfonyl-6-cyanomethyl indole | CS(=O)(=O)N1C=CC2=CC=C(C=C12)CC#N | C11H10N2O2S
reactant | N-methanesulfonyl-6-bromomethyl indole | CS(=O)(=O)N1C=CC2=CC=C(C=C12)CBr | C10H10BrNO2S
product | (3-Chloro-4-methyl-5-nitrophenyl) acetonitrile | ClC=1C=C(C=C(C1C)[N+](=O)[O-])CC#N | C9H7ClN2O2
